US04654343
6-(3-Aminophenyl)-3-methyl-1,2,4-triazolo[4,3-b]pyridazine
An 11.0 g portion of 3-methyl-6-(3-nitrophenyl)-1,2,4-triazolo[4,3-b]pyridazine and 41.0 g portion of anhydrous stannous chloride were dissolved in 500 ml of anhydrous ethanol and heated to reflux for 3 hours. The solution was cooled to 20° C. and poured onto 200 g of crushed ice and 500 ml of dichloromethane. A saturated aqueous solution of sodium bicarbonate was added until pH=7. The mixture was filtered and the salts washed with five 100 ml portions of hot ethyl acetate. The organic layers were combined, dried over magnesium sulfate and the volatiles removed in vacuo. The residue was passed through a short column (50 g) of anhydrous magnesium silicate with dichloromethane-methanol (95:5) as eluent. The fractions containing product were collected, evaporated and recrystallized from dichloromethane-hexane to afford 8 g of the desired compound as yellow needles, mp 206°-208° C.

reactant | 3-methyl-6-(3-nitrophenyl)-1,2,4-triazolo[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C12H9N5O2
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-(3-Aminophenyl)-3-methyl-1,2,4-triazolo[4,3-b]pyridazine | 8 g | NC=1C=C(C=CC1)C=1C=CC=2N(N1)C(=NN2)C | C12H11N5
